US06147216
Dissolve 2-methyl-2-phenyl-propionic acid (15.0 g, 91.2 mmol) in toluene (80 mL) and add, by dropwise addition over 5 minutes, thionyl chloride (15 mL, 206 mmol). Stir at room temperature overnight, add additional thionyl chloride (3 mL, 41.1 mmol) and heat to reflux for 1 hour. Remove excess thionyl chloride by azeotropic distillation with toluene (40 mL). Add toluene (20 mL) to the reaction mixture along with a solution of potassium carbonate (28.0 g, 203 mmol) in water (40 mL). Add, by dropwise addition, a solution of N,O-dimethylhydroxylamine hydrochloride (8.9 g, 91.2 mmol) in water (20 mL) without cooling and stir for 2 hours. Add tert-butylmethyl ether (75 mL) following by slow addition of aqueous HCl (2N, 75 mL) with vigorous stirring. Separate the organic layer and wash with aqueous HCl (2N, 75 mL), saturated sodium hydrogen carbonate (25 mL) and brine (50 mL). Dry the organic layer over (Na2SO4), filter, evaporate the filtrate in vacuo and purify by vacuum distillation to give 2-methyl-2-phenyl-propionic acid, N-methoxy-N-methylamide (18.0 g, 95%); bp 91-103° C./5 mm Hg. MS (CI, CH4) m/e 208 (M+ +1, 100), 119.

reactant | 2-methyl-2-phenyl-propionic acid | 91.2 mmol, 15.0 g | CC(C(=O)O)(C)C1=CC=CC=C1 | C10H12O2
reactant | thionyl chloride | 206 mmol, 15 mL | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 41.1 mmol, 3 mL | S(=O)(Cl)Cl | Cl2OS
reactant | potassium carbonate | 203 mmol, 28.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,O-dimethylhydroxylamine hydrochloride | 91.2 mmol, 8.9 g | Cl.CNOC
reactant | HCl | 2N, 75 mL | Cl | ClH
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 40 mL | O | H2O
solvent | water | 20 mL | O | H2O
solvent | tert-butylmethyl ether | 75 mL | C(C)(C)(C)OC | C5H12O
product | 2-methyl-2-phenyl-propionic acid, N-methoxy-N-methylamide | 18.0 g, 95% | CON(C(C(C)(C1=CC=CC=C1)C)=O)C | C12H17NO2
